US05859007
D. 2-[3-(6-Fluoro-1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-trifluoromethoxy-phenyl)-acetamide
To a solution of 250 mg of 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-trifluoromethoxy-phenyl) acetamide, prepared as in Part C, in 5 mL of dry DMF at 0° C. is added 1.5 mL of a 0.5M solution of potassium bis(trimethylsilyl)amide in toluene. The reaction mixture is stirred for 30 min at 0° C. and a solution of 170 mg of 3-Bromomethyl-6-fluoro-1-tert-butoxycarbonyl-indazole in 3 mL of dry DMF is added dropwise. The reaction mixture is stirred overnight at RT, poured into water and the product extracted with ethyl acetate (2×15 mL). The solvent is removed in vacuo and the residue is purified by silica gel flash column chromatography using hexane/EtOAc 1/1 as eluent to afford 100 mg of the title compound: 1H NMR (300 MHz, CDCl3) δ7.98-6.95 (m,16H) 5.07 (m, 1H), 4.30 (m, 3H), 3.86 (dd, 1H, J=16.5, 6.4), 3.65 (dd, 1H,J=16.5,6.4), 1.69 (s, 9H), 1.13 (d, 6H, J=6.8).

reactant | 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-trifluoromethoxy-phenyl) acetamide | 250 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC(F)(F)F)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H24F3N3O4
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-Bromomethyl-6-fluoro-1-tert-butoxycarbonyl-indazole | 170 mg | BrCC1=NN(C2=CC(=CC=C12)F)C(=O)OC(C)(C)C | C13H14BrFN2O2
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-[3-(6-Fluoro-1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-trifluoromethoxy-phenyl)-acetamide | 100 mg | FC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC(F)(F)F)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C40H37F4N5O6
